US05294713
WORKING EXAMPLE 60 (S)-4-[4-(2-Aminoethyl)benzoylglycyl]-3-methoxycarbonyl methyl-2-oxopiperazine-1-acetic acid hydrochloride
In 10 ml of methanol was dissolved 500 mg of (S)-4-(N-benzyloxycarbonylglycyl)-3-methoxycarbonylmethyl-2-oxo-piperazine-1-acetic acid t-butyl ester obtained in Working Example 58. To the solution was added 100 mg of 10% palladium-carbon, and the mixture was stirred for one hour at room temperature. The catalyst was filtered off, and the filtrate was concentrated to give an oily product. The oily product was dissolved in 5 ml of dimethylformamide, to which was added 290 mg of 4-(2-t-butoxycarbonylaminoethyl)benzoic acid. The mixture was cooled with ice, to which were added dropwise 240 mg of diethyl cyanophosphonate then 300 mg of triethylamine. The mixture was stirred for one hour. The reaction mixture was diluted with ethyl acetate, washed with a 5% aqueous solution of potassium hydrogensulfate, then with a 10% aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate, then concentrated under reduced pressure. The resultant oily product was dissolved in 5 ml of methylene chloride. To the solution was added 5 ml of trifluoroacetic acid, and the mixture was stirred for one hour at room temperature. The reaction mixture was concentrated to give a crude product, which was made into hydrochloride with 1N HCl, followed by purification by means of C18 --ODS column to afford 300 mg of the title compound as colorless powder.

reactant | (S)-4-(N-benzyloxycarbonylglycyl)-3-methoxycarbonylmethyl-2-oxo-piperazine-1-acetic acid t-butyl ester | 500 mg | C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)CC(=O)OC)=O)=O | C23H31N3O8
reactant | 4-(2-t-butoxycarbonylaminoethyl)benzoic acid | 290 mg | C(C)(C)(C)OC(=O)NCCC1=CC=C(C(=O)O)C=C1 | C14H19NO4
reactant | diethyl cyanophosphonate | 240 mg | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | hydrochloride | Cl | ClH
reactant | HCl | 1N | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | triethylamine | 300 mg | C(C)N(CC)CC | C6H15N
product | (S)-4-[4-(2-Aminoethyl)benzoylglycyl]-3-methoxycarbonyl methyl-2-oxopiperazine-1-acetic acid hydrochloride | 300 mg | Cl.NCCC1=CC=C(C(=O)NCC(=O)N2[C@@](C(N(CC2)CC(=O)O)=O)(C(=O)OC)C)C=C1 | InChI=1S/C20H26N4O7.ClH/c1-20(19(30)31-2)18(29)23(12-16(26)27)9-10-24(20)15(25)11-22-17(28)14-5-3-13(4-6-14)7-8-21;/h3-6H,7-12,21H2,1-2H3,(H,22,28)(H,26,27);1H/t20-;/m0./s1
